US04175206
30 g of an aqueous 40% glyoxylic acid solution are added to 70 ml of water, and 37.5 g of ammonium acetate and 22.5 g of phenol are added thereto under stirring. The mixture is stirred at room temperature for 41 hours. The crystalline precipitates are collected by filtration under cooling, and then successively washed with water and methanol. 7.8 g of DL-p-hydroxyphenylglycine are thereby obtained as white crystals. Yield: 28.9%, M.p. 225°-228° C. (decomp.).

reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
reactant | ammonium acetate | 37.5 g | C(C)(=O)[O-].[NH4+]
reactant | phenol | 22.5 g | C1(=CC=CC=C1)O | C6H6O
solvent | water | 70 ml | O | H2O
product | DL-p-hydroxyphenylglycine | 7.8 g, Yield: 28.9% | C1=CC(=CC=C1C(C(=O)O)N)O | C8H9NO3
